US05869518
6.2. Phenylmethyl 3-carboxy-2-(phenylmethyl)-1-propanoate
8 ml of trifluoroacetic acid are added, at 0° C., to a solution of 2 g (5.6 mmol) of phenylmethyl 1,1-dimethylethyl 2-(phenylmethyl)-1,4-butanedioate in 16 ml of dichloromethane. After 7 h at room temperature, the mixture is evaporated to dryness and the residue is recrystallized from cyclohexane. 1.05 g of a white product are obtained.

reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | phenylmethyl 1,1-dimethylethyl 2-(phenylmethyl)-1,4-butanedioate | 5.6 mmol, 2 g | C1(=CC=CC=C1)CC(C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C | C22H26O4
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | Phenylmethyl 3-carboxy-2-(phenylmethyl)-1-propanoate | 1.05 g | C(=O)(O)CC(C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C18H18O4
